* tb_temp_core -- GENERATED by sim/build_tb.py
* Do not edit. Sources:
*   sim/temp-core-designer-check/testbench/stimulus.spice
*   design/netlist/temp_core.spice  (sha256 c017e15399812a21ff04ac037d785e3c6b1fa77b5b0c45080fcacf6b9a5e64d4)
* Regenerate with:
*   python3 sim/build_tb.py

* temp-core-designer-check -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/temp_core.spice,
* appended by build_tb.py to produce tb_temp_core.spice. Edit THIS file (or
* the schematic), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* Five independent branches, each answering one question:
*
*   1. xdut  enabled DUT, effectively unloaded pads (1 Tohm)
*            -> V(PTAT), V(CTAT), the PTAT transfer constant, output
*               headroom, and Iq.
*   2. xdis  a second DUT with EN tied low
*            -> what the cell draws from its own VDD pin before POR releases.
*   3. xnom  a third DUT hard-wired to vdd_nom
*            -> supply sensitivity, as a direct difference against branch 1.
*   4. xld   a fourth DUT with a 10 Mohm pad load
*            -> how much the missing output buffer costs, measured rather
*               than argued (the PTAT node's source impedance is R2).
*   5. xL*   four standalone copies of the trim ladder at codes 0 / 32 / 33 /
*            63, driven by an ideal 2.5 uA
*            -> trim range, LSB size and monotonicity across the whole PVT
*               grid, without needing six schematic variants.
*
* Absolute-temperature probe: `temper` is not reachable from a measure
* expression, so it is published as a node voltage (1 V per kelvin).

Btk tk 0 v='temper + 273.15'
Rtk tk 0 1G

* ---- 1. enabled DUT ---------------------------------------------------
* IBIAS is sourced from the same rail the DUT's Iq is measured on, so
* iq_ua is the conservative number: it includes the 0.5 uA reference that
* bias_core pushes into the pin (see design/temp_core.md, Iq budget).
vsup  vdd 0 dc {vdd_val}
ven   en  0 dc {vdd_val}
xdut  vdd 0 ibias en ptat ctat temp_core
ibref vdd ibias dc 500n
Rlp   ptat 0 1T
Rlc   ctat 0 1T

* ---- 2. disabled DUT (EN low) -----------------------------------------
* IBIAS comes from a separate rail here so that the 0.5 uA is bias_core's
* leg, not temp_core's. What vsupd measures is the cell's own draw from its
* own supply pin.
*
* xmshd is load-bearing since DR-010. temp_core no longer clamps its IBIAS
* pin when disabled -- the pin is HIGH-Z, because IBIAS is a shared net and
* clamping it locked POR up (see spec/decision-records/DR-010-*.md). So the
* forced reference has to be terminated HERE, by the testbench, exactly as
* the assembled block terminates it: xmshd is a diode-connected nfet_03v3
* 4u/4u, a copy of por_output_chain's always-on XMBD, which is the element
* that actually defines the shared node's operating point in
* design/netlist/temp_por_top.spice. Without it this branch would be an
* ideal current source driving an open circuit -- a stimulus artefact, and
* the artefact the deleted clamp existed to paper over.
vsupd vddd 0 dc {vdd_val}
vend  end  0 dc 0
vbias vbr  0 dc {vdd_val}
* vibd is a 0 V ammeter in series with the disabled pin, so i(vibd) is the
* current the disabled cell actually takes OUT of the shared node. That is
* the DR-010 high-impedance invariant as a number rather than as a claim.
xdis  vddd 0 nibd end ptatd ctatd temp_core
vibd  ibiasd nibd dc 0
ibrfd vbr ibiasd dc 500n
xmshd ibiasd ibiasd 0 0 nfet_03v3 L=4u W=4u nf=1 m=1
Rlpd  ptatd 0 1T
Rlcd  ctatd 0 1T

* ---- 3. enabled DUT on the NOMINAL rail -------------------------------
* Same DUT, same temperature, same corner, but hard-wired to vdd_nom instead
* of this point's vdd_val. The difference between the two PTAT outputs is
* the whole supply-sensitivity measurement (spec/target-spec.md
* #temp-supply-sensitivity) with no cross-point arithmetic: at the nominal
* rail the two copies are identical and the measurement reads zero by
* construction. EN gets its own vdd_nom-referenced driver so this copy is
* never driven above its own rail.
vsupn vddn 0 dc {vdd_nom}
venn  enn  0 dc {vdd_nom}
xnom  vddn 0 ibiasn enn ptatn ctatn temp_core
ibrfn vddn ibiasn dc 500n
Rlpn  ptatn 0 1T
Rlcn  ctatn 0 1T

* ---- 4. enabled DUT into a 10 Mohm pad load ---------------------------
vsupl vddl 0 dc {vdd_val}
xld   vddl 0 ibiasl en ptatl ctatl temp_core
ibrfl vddl ibiasl dc 500n
Rlpl  ptatl 0 10meg
Rlcl  ctatl 0 10meg

* ---- 5. trim ladder, standalone, four codes ---------------------------
* Same devices and same r_length values as the ladder inside temp_core.
.subckt trimlad top vss b5 b4 b3 b2 b1 b0
XR2F  top t5   vss ppolyf_u r_width=2u r_length=2652.6u m=1
XR2T5 t5  t4   vss ppolyf_u r_width=2u r_length=229.71u m=1
XR2T4 t4  t3   vss ppolyf_u r_width=2u r_length=114.69u m=1
XR2T3 t3  t2   vss ppolyf_u r_width=2u r_length=57.18u  m=1
XR2T2 t2  t1   vss ppolyf_u r_width=2u r_length=28.42u  m=1
XR2T1 t1  t0   vss ppolyf_u r_width=2u r_length=14.03u  m=1
XR2T0 t0  vss  vss ppolyf_u r_width=2u r_length=6.85u   m=1
XSW5  t5  b5 t4  vss nfet_03v3 W=32u L=0.5u nf=1 m=1
XSW4  t4  b4 t3  vss nfet_03v3 W=32u L=0.5u nf=1 m=1
XSW3  t3  b3 t2  vss nfet_03v3 W=32u L=0.5u nf=1 m=1
XSW2  t2  b2 t1  vss nfet_03v3 W=32u L=0.5u nf=1 m=1
XSW1  t1  b1 t0  vss nfet_03v3 W=32u L=0.5u nf=1 m=1
XSW0  t0  b0 vss vss nfet_03v3 W=32u L=0.5u nf=1 m=1
.ends trimlad

xL00 nl00 0 0   0   0   0   0   0   trimlad
xL32 nl32 0 vdd 0   0   0   0   0   trimlad
xL33 nl33 0 vdd 0   0   0   0   vdd trimlad
xL63 nl63 0 vdd vdd vdd vdd vdd vdd trimlad
il00 0 nl00 dc 2.5u
il32 0 nl32 dc 2.5u
il33 0 nl33 dc 2.5u
il63 0 nl63 dc 2.5u


* temp_core -- generated by design/netlist.py from design/temp_core.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/temp_core.sch
.subckt temp_core VDD VSS IBIAS EN PTAT CTAT
*.PININFO VDD:B VSS:B IBIAS:I EN:I PTAT:O CTAT:O
XMBD IBIAS NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPASS IBIAS EN NBG VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDNB NBG ENB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN1 PB NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP PB PB VDD VDD pfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN2 PCAS NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCB PCAS PCAS VDD VDD pfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINVP ENB EN VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINVN ENB EN VSS VSS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMT NT PB VDD VDD pfet_03v3 L=4u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMI1 N1 NA NT NT pfet_03v3 L=4u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMI2 N2 NB NT NT pfet_03v3 L=4u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML1 N1 N1 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML2 N2 N1 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2N PG N2 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2P PG PB VDD VDD pfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCC PG NZ cap_mim_2f0_m3m4_noshield c_width=12u c_length=12u m=1
XRZ NZ N2 VSS ppolyf_u r_width=2u r_length=1000u m=1
XMP1 M1D PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC1 NA PCAS M1D VDD pfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 M2D PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC2 NB PCAS M2D VDD pfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 M3D PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC3 PTAT PCAS M3D VDD pfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU1 ND PB VDD VDD pfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU2 ND NR VSS VSS nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU3 PG ND VSS VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDND ND ENB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMENPG PG EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMENPT PTAT ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMENCT CTAT ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU4 NR PG VDD VDD pfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU5 NR NR VSS VSS nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDN2 N2 ENB VSS VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDNT NT ENB VSS VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 VSS VSS NA pnp_10p00x10p00 m=1
XQ8A VSS VSS NC pnp_10p00x10p00 m=1
XQ8B VSS VSS NC pnp_10p00x10p00 m=1
XQ8C VSS VSS NC pnp_10p00x10p00 m=1
XQ8D VSS VSS NC pnp_10p00x10p00 m=1
XQ8E VSS VSS NC pnp_10p00x10p00 m=1
XQ8F VSS VSS NC pnp_10p00x10p00 m=1
XQ8G VSS VSS NC pnp_10p00x10p00 m=1
XQ8H VSS VSS NC pnp_10p00x10p00 m=1
XR1 NB NC VSS ppolyf_u r_width=2u r_length=119.47u m=1
XR2F PTAT T5 VSS ppolyf_u r_width=2u r_length=2652.6u m=1
XR2T5 T5 T4 VSS ppolyf_u r_width=2u r_length=229.71u m=1
XR2T4 T4 T3 VSS ppolyf_u r_width=2u r_length=114.69u m=1
XR2T3 T3 T2 VSS ppolyf_u r_width=2u r_length=57.18u m=1
XR2T2 T2 T1 VSS ppolyf_u r_width=2u r_length=28.42u m=1
XR2T1 T1 T0 VSS ppolyf_u r_width=2u r_length=14.03u m=1
XR2T0 T0 VSS VSS ppolyf_u r_width=2u r_length=6.85u m=1
XRISO NA CTAT VSS ppolyf_u r_width=2u r_length=111.05u m=1
XSW5 T5 VDD T4 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW4 T4 VSS T3 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW3 T3 VSS T2 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW2 T2 VSS T1 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW1 T1 VSS T0 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW0 T0 VSS VSS VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
